US04279918
2-(α-ethoxycarbonyl-4-chlorobenzylidene)-1-isopropylpyrrolidine
Add [dropwise, with stirring, at from 90°-100°, in a stream of nitrogen] a solution of 5.1 g of sodium in 100 ml of ethanol to a mixture of 32 g of 4-chlorophenylacetic acid ethyl ester and 59.13 g of 1-isopropyl-2-dimethylamino-1-pyrrolinium-methylsulfate. After completion of the addition, continue stirring for a further 30 minutes; then cool and take up with water (≈100 ml) and diethyl ether (≈150 ml). Collect the organic phase, extract the aqueous phase once again with diethyl ether, combine the ether extracts, dry and concentrate them to obtain a yield [45.6 g (92% of theory)] of crude title compound; recrystallize 5 g from ethanol/water to obtain 4.2 g of product with a m.p. of 70° to 71°.

reactant | sodium | 5.1 g | [Na] | Na
reactant | 4-chlorophenylacetic acid ethyl ester | 32 g | C(C)OC(CC1=CC=C(C=C1)Cl)=O | C10H11ClO2
reactant | 1-isopropyl-2-dimethylamino-1-pyrrolinium methylsulfate | 59.13 g | C(C)(C)[N+]1=C(CCC1)N(C)C.COS(=O)(=O)[O-]
reactant | water | ≈100 ml | O | H2O
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | diethyl ether | ≈150 ml | C(C)OCC | C4H10O
product | 2-(α-ethoxycarbonyl-4-chlorobenzylidene)-1-isopropylpyrrolidine | 4.2 g | C(C)OC(=O)C(C1=CC=C(C=C1)Cl)=C1N(CCC1)C(C)C | C17H22ClNO2
